US08138333B2
1,3,4,5-Tetrahydro-6H-azepino[5,4,3-cd]indol-6-one
Methyl 3-(2-nitroethyl)-1H-indole-4-carboxylate, Intermediate 9 (7.38 g, 29.8 mmol) was dissolved in methanol (200 mL) by heating and aqueous 2M HCl (460 mL) was added. Zinc powder (46.2 g, 706 mmol) was added portion vise by vigorous stirring. The resulting mixture was heated under reflux for 2 h. The hot reaction mixture was filtered and the filtrate was treated with aqueous 2M NaOH (560 mL) and filtered again. The filter cake was washed with methanol. The methanol was removed under reduced pressure and the aqueous mixture was extracted three times with ethyl acetate. The organic solution was washed with water and brine dried with magnesium sulfate, filtered and evaporated to dryness. It was obtained a yellowish crystalline material with the yield of 4.62 g. Recrystallisation from the dichlomethane-methanol mixture gave the product of very high purity. Mp. 234° C. MS m/z 187 [M+H]+.

reactant | Methyl 3-(2-nitroethyl)-1H-indole-4-carboxylate | [N+](=O)([O-])CCC1=CNC=2C=CC=C(C12)C(=O)OC | C12H12N2O4
reactant | HCl | 2M, 460 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
catalyst | Zinc | 706 mmol, 46.2 g | [Zn] | Zn
product | 1,3,4,5-Tetrahydro-6H-azepino[5,4,3-cd]indol-6-one | N1C=C2C=3C(=CC=CC13)C(NCC2)=O | C11H10N2O
